US06492550B2
3-(4-Tert-butyldimethylsilyloxy-phenyl)-1-methanesulfonyloxy-propane
A solution of 3-(4-tert-butyldimethylsilyloxy-phenyl)-1-propanol (P. A. Grieco and C. J. Markworth, Tet. Lett., 1999, 40: 665) (2.86 g, 10.73 mmol) in dry dichloromethane (25 ml), was cooled to 0-5° C. and treated with triethylamine (2.4 ml, 17.0 mmol). Then methanesulfonyl chloride (1.08 ml, 14 mmol) was added dropwise over 10 minutes. The reaction mixture was stirred at 0-5° C. for 1 hour, then quenched with sat. sodium bicarbonate, diluted with ethyl acetate (300 mL), washed with water, brine, dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was filtered aon a silica gel pad (toluene/ethyl acetate 95:5) to give the title material (3.68 g, 100%) as a clear oil.

reactant | 3-(4-tert-butyldimethylsilyloxy-phenyl)-1-propanol | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCCO | C15H26O2Si
reactant | triethylamine | 17.0 mmol, 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 14 mmol, 1.08 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3-(4-Tert-butyldimethylsilyloxy-phenyl)-1-methanesulfonyloxy-propane | 3.68 g, 100% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCCOS(=O)(=O)C | C16H28O4SSi
